US07253286B2
N-(4-((7-(Benzyloxy)-6-cyano-4-quinolyl))oxy-2-chlorophenyl)-N′-cyclopropylurea
After dissolving 4-(4-amino-3-chlorophenoxy)-7-benzyloxy-6-cyanoquinoline (8.037 g, 20.0 mmol) in dimethylformamide (40 ml) under a nitrogen atmosphere, pyridine (1.94 ml, 24.0 mmol) and phenyl chloroformate (3.01 ml, 24.0 mmol) were added dropwise at room temperature and the mixture was stirred for 1 hour. Cyclopropylamine (3.46 ml, 50 mmol) was added dropwise, and the mixture was further stirred for 3 hours. Water (400 ml) and diethyl ether (400 ml) were added to the reaction solution, and after stirring overnight, the precipitated crystals were filtered out, washed with water and diethyl ether and dried at 70° C. to obtain the title compound (8.570 g, 17.7 mmol, 88.4%) as light brown crystals.

reactant | 4-(4-amino-3-chlorophenoxy)-7-benzyloxy-6-cyanoquinoline | 20.0 mmol, 8.037 g | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2=CC=CC=C2)C=C1)Cl | C23H16ClN3O2
reactant | pyridine | 24.0 mmol, 1.94 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 24.0 mmol, 3.01 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Cyclopropylamine | 50 mmol, 3.46 ml | C1(CC1)N | C3H7N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | Water | 400 ml | O | H2O
product | N-(4-((7-(Benzyloxy)-6-cyano-4-quinolyl))oxy-2-chlorophenyl)-N′-cyclopropylurea | 17.7 mmol, 8.570 g, 88.4% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NC1CC1)Cl)C#N | C27H21ClN4O3
